Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ PMHx of recurrent VTE, now presents s/p mechanical fall on 
___ on broken sidewalk presents to the ED c/o R knee, L elbow, 
L wrist, and tooth pain.  Prior to arrival she also complained 
some mild chest discomfort on deep inspiration that began after 
her fall.  Patient reports that she fell fowrad on her 
nose/mouth, did not hit the back of her head. She denied LOC.   
In the ED, initial vital signs were: T 98.5 P 86 BP 119/62  R 18 
O2 sat 96% RA. Labs were notable for therapeutic INR of 2.3.  
Patient complained of nausea.  Exam notable for scattered 
abrasions to L ulnar hand, contusion over the thenar eminance, 
no snuff box tenderness.  There is a skin tear over the R knee 
with limited ROM secondary to pain. X-ray showed right patellar 
fracture. NCHCT showed no acute intracranial process. Patient 
initially held in observation. In the morning the patient is c/o 
headache which she attributed to the oxycodone, though it was 5 
hours after she had taken it. She also had several episodes of 
emesis relieved by Zofran. Repeat heat CT showed no sign of ICH. 
Patient admitted after being unable to tolerate PO. 

Patient is on lifelong Coumadin afetr several episodes of DVT on 
in ___ and a second episode in ___.  She has been tested for 
hypercoagulable states but was on Coumadin for the test so 
results were invalid.  She is followed by hematologist Dr. ___ 
___ at ___.

On evaluation on the medical floor, patient reports headache 
much improved (now ___, she is no longer nauseous and is very 
thirsty.  She still complains of right sided rib pain that hurts 
when she moves.  Denies abdominal pain, pain on urination, chest 
pain, SOB. 

ROS: 10 point ROS negative, except as mentioned above in HPI.

 
Past Medical History:
recurrent VTE, on lifelong Coumadin
viral meningitis
hypothyroidism
SVT

 
Social History:
___
Family History:
Mother - COPD, CHF (deceased)
Father - ___, carotid stenosis (deceased)
Brother - MI @ ___ (deceased)

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T98.3, BP 103/36, HR 65, RR 18, Sat 98%RA
General: well appearing, NAD
HEENT: normocephalic, atraumatic, tenderness along nasal bridge, 
nares patent, no hematoma
CV: RRR no m/r/g
Lungs: CTA b/l
Chest: no tenderness to palpation along ribs, no contusion or 
ecchymyosis
Abdomen: soft, non tender
Ext: right leg in fixed extension, left leg 
Neuro: pupils are equal and reactiveCN II-XII intact, no 
pronator drift, no orbiting on arm rotation, Exam of right ___ 
limited by pain left ___ ___ strength, ___ strength in upper 
extremity
MSK: full ROM and strength in upper extremities
Skin: multiple echymyotic lesions on arms b/l

DISCHARGE PHYSICAL EXAM
Vitals: T98.7, BP 110/44-122/61, HR 61, RR 18, Sat 98%
General: sitting in bed, NAD, pleasantly conversant
HEENT: normocephalic, atraumatic, tenderness along nasal bridge, 
nares patent, no hematoma
Lungs: CTA b/l 
CV: RRR
Abdomen: soft, NT
Ext: right leg in brace, right ankle swollen, non-tender, 
palpable pulses but warm, left leg unremarkable
Neuro: CN II-XII intact, pupils equal and reactive, ___ strength 
in upper extremities b/l
 
Pertinent Results:
INITIAL LABS:
___ 12:45PM   ___ PTT-43.3* ___
___ 12:45PM   PLT COUNT-209
___ 12:45PM   NEUTS-65.7 ___ MONOS-5.5 EOS-1.0 
BASOS-0.6
___ 12:45PM   WBC-6.9 RBC-4.96 HGB-15.4 HCT-47.5 MCV-96 
MCH-31.1 MCHC-32.5 RDW-14.5
___ 12:45PM   estGFR-Using this
___ 12:45PM   GLUCOSE-97 UREA N-15 CREAT-0.8 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-101 TOTAL CO2-32 ANION GAP-11

DISCHARGE LABS: 
___ 07:00AM BLOOD WBC-4.9 RBC-4.21 Hgb-13.1 Hct-40.5 MCV-96 
MCH-31.2 MCHC-32.4 RDW-14.7 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-33.5 ___
___ 07:00AM BLOOD Glucose-86 UreaN-6 Creat-0.4 Na-140 K-3.8 
Cl-106 HCO3-26 AnGap-12
___ 07:00AM BLOOD Calcium-7.7* Phos-2.8 Mg-1.9
___ 06:45AM BLOOD ___
IMAGING STUDIES:
___ CXR PA/lateral:
IMPRESSION:
No acute cardiopulmonary process.
.
___  KNEE (AP, LAT & OBLIQUE) RIGHT 
IMPRESSION:
Mildly comminuted patellar fracture with associated 
lipohemarthrosis.
.  
___ ELBOW LEFT X-ray
IMPRESSION:
Normal exam.
.
___ Left Wrist X-ray
IMPRESSION:
No evidence of fracture or dislocation of the left wrist.
.
___ PELVIS + HIP X-ray
IMPRESSION:
1. No acute findings.
2. Mild degenerative changes of the hips.
.
___ CT HEAD
IMPRESSION:
No acute intracranial process
.  
___ CT HEAD 
IMPRESSION:
No acute intracranial process and no change from 19 hr prior.
.
___ Left Rib series
IMPRESSION:
1. Possible nondisplaced fractures of the lateral fourth and 
fifth ribs.
2. Possible healing fracture of the distal left tenth rib.
3. No pneumothorax.
4. Small area of increased density in the left lung base, likely 
atelectasis.  Followup radiographic examination is suggested to 
assess resolution.
.
___ Right lower extremity US
IMPRESSION:
No evidence of deep venous thrombosis in the right lower 
extremity veins. 
 
Brief Hospital Course:
___ year old female with history of osteoporosis, DVTx3 presents 
after a mechanical fall on ___ with LOC, found to have a right 
patellar fracture. 

ACUTE ISSUES: 
# Mechanical fall - Patient suffered a mechanical fall due to an 
uneven sidewalk.  She did not hit the back of her head, no loss 
of consiousness.  The patient developed intractable 
nausea/vomiting with headache; serial noncontrast head CTs in 
the ED were not revealing of any head bleeds and her symptoms 
were felt to be consistent with a post-concussive syndrome. The 
patient did suffer a R patellar fracture per below.  

# R patellar fracture - Found to have non-displaced comminuted R 
patellar fracture, with flexor and extensor function intact. 
___ brace was placed by Orthopedics; brace is to remain 
locked in full extension at all times and the patient is 
weight-bearing as tolerated.  She did not require surgical 
intervention while hospitalized and pain was well controlled 
with Tylenol.  She will follow-up with Ortho as an outpatient.  
The patient was evaluated by ___ while in-house and will require 
rehab due to decreased functional mobility.

#Rib fractures - patient complained of left sided rib pain. Rib 
series revealed non displaced new ___ and ___ left rib fractures 
with healing 10th rib fractures.  She only required Tylenol for 
pain control. 
 
# History of multiple DVTs - all DVTs seem to have been 
provoked. She was told by her outpatient hematologist that she 
will require lifelong anticoagulation because of her history of 
multiple DVTs.  She was continued on her home Coumadin and her 
INR was within therapeutic range.  She is interested in further 
discussion regarding the new anticoagulants.

# RLE swelling - Patient noted to have some increased RLE 
swelling thought to be ___ fracture and placement ___ 
brace.  INR was therapeutic throughout hospitalization and RLE 
ultrasound showed no evidence of a DVT.

CHRONIC ISSUES: 
# Hypothyroidism - continued home levothyroxine 125 mcg daily

# HLD - continued on simvastatin 20 mg daily

***TRANSITIONAL ISSUES***
-Patient expressed interest in different anticoagulation 
regimens.  She should discuss these issues with her outpatient 
hematologist. 
-Please consider a repeat CXR in 1 month to assess for 
resolution of LLL infiltrate seen on left rib series X-ray, to 
assess for resolution of the infiltrate, if clinically 
indicated.
-f/u with Orthopedics Clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Warfarin 1.25 mg PO DAYS (___) 
3. Warfarin 2.5 mg PO DAYS (___) 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. Simvastatin 20 mg PO DAILY 

 
Discharge Medications:
 

1. Levothyroxine Sodium 125 mcg PO DAILY 
2. Simvastatin 20 mg PO DAILY 
3. Warfarin 1.25 mg PO DAYS (___) 
4. Warfarin 2.5 mg PO DAYS (___) 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Acetaminophen 325-650 mg PO Q6H:PRN pain 
7. TraMADOL (Ultram) 50 mg PO Q6H:PRN breakthorugh pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*15 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Final Diagnosis: 
mechanical fall
patella fracture

Secondary Diagnosis:
Recurrent deep venous thromboses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Dr. ___, 

___ were admitted to the hospital after ___ fell on the sidewalk 
and hit your face.  In the ED ___ were found to have a patella 
fracture and was seen by orthopedic surgery who immobilized ___ 
knee; ___ did not require any surgical intervention for your 
fracture.  While in the ED ___ developed worsening headache, 
nausea and photophobia with inability to keep food down, most 
likely from a post-concussive syndrome.  ___ were monitored and 
treated with zofran for nausea and tramadol and tyelenol for 
pain control.  ___ can continue to take these medications aftre 
discharge for symptom control as ___ recover. Thankfully, head 
CT did not show any sign of a head bleed so ___ were restarted 
on your home coumadin. ___ were also seen by physical therapy 
while inpatient who felt that ___ would benefit from rehab. 
While ___ were admitted ___ developed some right foot swelling.  
We did an ultrasound study of your right leg which did not show 
signs of a clot. 

___ also had a rib x-ray done and was found to have a new 
non-displaced fracture of two ribs on the left side which causes 
___ pain when ___ take a deep breath and move.  We normally 
treat rib fractures with pain control.  Please continue to take 
tylenol after your discharge for pain control. 

Thank ___ for allowing us to participate in your care.

All the best, 
Your ___ care team
 
Followup Instructions:
___